US05498786
N-(6-Methylthioquinolin-5-yl)-2-(hexylthio)-decanoic amide
(R)-N-(6-Methylthioquinolin-5-yl)-2-bromodecanoic amide (43 mg, 0.10 mmol) in 1 ml of DMF was cooled to 0° C. To this was added a cooled suspension of NaH (9 mg, 0.38 mmol) and hexanethiol (67 mg, 0.57 mmol) in 1 ml DMF. The reaction was allowed to warm to rt over a period of 12 hours and quenched with 5 ml of saturated NH4Cl. The aqueous layer was extracted with ethyl acetate (3×10 ml). Purification of the organic phase by silica gel column chromatography (eluent: 100% CHCl3) yielded 30 mg (65% yield) of the desired product. 1H NMR (CDCl3) δ8.85 (1H, d, J=3 Hz), 8.62 (1H, s), 8.05 (3H, d, J=9 Hz), 8.00 (1H, d, J=9 Hz), 7.65 (1H, d, J=9 Hz), 7.40 (1H, dd, J=9, 9 Hz), 3.55 (1H, t, J=8 Hz), 2.80 (2H, t, J=8 Hz), 2.50 (3H, s), 2.20-1.30 (22H, m), 0.91 (6H, t, J=9 Hz).

reactant | (R)-N-(6-Methylthioquinolin-5-yl)-2-bromodecanoic amide | 0.10 mmol, 43 mg | CSC=1C(=C2C=CC=NC2=CC1)NC([C@@H](CCCCCCCC)Br)=O | C20H27BrN2OS
reactant | NaH | 0.38 mmol, 9 mg | [H-].[Na+]
reactant | hexanethiol | 0.57 mmol, 67 mg | C(CCCCC)S | C6H14S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(6-Methylthioquinolin-5-yl)-2-(hexylthio)-decanoic amide | 30 mg, 65% yield | CSC=1C(=C2C=CC=NC2=CC1)NC(C(CCCCCCCC)SCCCCCC)=O | C26H40N2OS2
